US06992087B2
(1R,2S)-1-[(5-bromo-6-cyclopropyl-3-ethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol
Following the procedure for the preparation of (1R,2S)-1-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol but substituting (1R,2S)-1-[(6-cyclopropyl-3-ethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol and making non-critical variations provided the title compound as a solid: 1H NMR (CDCl3) δ 0.93-1.09, 1.28-1.39, 2.35-2.43, 2.60-2.67, 2.99-3.05, 3.22-3.29, 4.70, 5.04, 5.44-5.49, 7.23-7.32; MS (ESI+) for C18H20BrN3O m/z 374 (M+H)+.

reactant | (1R,2S)-1-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | BrC=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C17H20BrN3O
reactant | (1R,2S)-1-[(6-cyclopropyl-3-ethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | C1(CC1)C1=CN=C(C(=N1)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C18H21N3O
product | (1R,2S)-1-[(5-bromo-6-cyclopropyl-3-ethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | BrC=1N=C(C(=NC1C1CC1)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C18H20BrN3O
